### PR TITLE
[Merged by Bors] - Feat: port Order.Filter.Basic

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,3090 @@
...
+
+* `Filter` : filters on a set;
+* `Filter.Principal` : specific filters;
+* `map`, `comap` : operations on filters;
+* `Filter.Tendsto` : limit with respect to filters;
+* `Filter.Eventually` : `f.eventually p` means `{x | p x} ∈ f`;
+* `Filter.Frequently` : `f.frequently p` means `{x | ¬p x} ∉ f`;
+* `filter_upwards [h₁, ..., hₙ]` : takes a list of proofs `hᵢ : sᵢ ∈ f`, and replaces a goal `s ∈ f`
+  with `∀ x, x ∈ s₁ → ... → x ∈ sₙ → x ∈ s`;
+* `Filter.NeBot f` : an utility class stating that `f` is a non-trivial filter.
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:27]:
```suggestion
* `Filter.NeBot f` : a utility class stating that `f` is a non-trivial filter.
```

File: Mathlib/Order/Filter/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,3090 @@
...
+  sense of measure theory. Dually, filters can also express the idea of *things happening often*:
+  for arbitrarily large `n`, or at a point in any neighborhood of given a point etc...
+
+In this file, we define the type `filter X` of filters on `X`, and endow it with a complete lattice
+structure. This structure is lifted from the lattice structure on `set (set X)` using the Galois
+insertion which maps a filter to its elements in one direction, and an arbitrary set of sets to
+the smallest filter containing it in the other direction.
+We also prove `filter` is a monadic functor, with a push-forward operation
+`filter.map` and a pull-back operation `filter.comap` that form a Galois connections for the
+order on filters.
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:44]:
```suggestion
In this file, we define the type `Filter X` of filters on `X`, and endow it with a complete lattice
structure. This structure is lifted from the lattice structure on `Set (Set X)` using the Galois
insertion which maps a filter to its elements in one direction, and an arbitrary set of sets to
the smallest filter containing it in the other direction.
We also prove `Filter` is a monadic functor, with a push-forward operation
`Filter.map` and a pull-back operation `Filter.comap` that form a Galois connections for the
order on filters.
```

File: Mathlib/Order/Filter/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,3090 @@
...
+* `𝓤 X` : made of entourages of a uniform space (those space are generalizations of metric spaces
+  defined in topology.uniform_space.basic)
+* `μ.ae` : made of sets whose complement has zero measure with respect to `μ` (defined in
+  `measure_theory.measure_space`)
+
+The general notion of limit of a map with respect to filters on the source and target types
+is `filter.tendsto`. It is defined in terms of the order and the push-forward operation.
+The predicate "happening eventually" is `filter.eventually`, and "happening often" is
+`filter.frequently`, whose definitions are immediate after `filter` is defined (but they come
+rather late in this file in order to immediately relate them to the lattice structure).
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:58]:
```suggestion
The general notion of limit of a map with respect to filters on the source and target types
is `Filter.Tendsto`. It is defined in terms of the order and the push-forward operation.
The predicate "happening eventually" is `Filter.Eventually`, and "happening often" is
`Filter.Frequently`, whose definitions are immediate after `Filter` is defined (but they come
rather late in this file in order to immediately relate them to the lattice structure).
```

File: Mathlib/Order/Filter/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,3090 @@
...
+
+For instance, anticipating on topology.basic, the statement: "if a sequence `u` converges to
+some `x` and `u n` belongs to a set `M` for `n` large enough then `x` is in the closure of
+`M`" is formalized as: `tendsto u at_top (𝓝 x) → (∀ᶠ n in at_top, u n ∈ M) → x ∈ closure M`,
+which is a special case of `mem_closure_of_tendsto` from topology.basic.
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:63]:
```suggestion
For instance, anticipating on Topology.Basic, the statement: "if a sequence `u` converges to
some `x` and `u n` belongs to a set `M` for `n` large enough then `x` is in the closure of
`M`" is formalized as: `Tendsto u at_top (𝓝 x) → (∀ᶠ n in at_top, u n ∈ M) → x ∈ closure M`,
which is a special case of `mem_closure_of_tendsto` from Topology.Basic.
```

File: Mathlib/Order/Filter/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,3090 @@
...
+* `f =ᶠ[l] g` : `∀ᶠ x in l, f x = g x`;
+* `f ≤ᶠ[l] g` : `∀ᶠ x in l, f x ≤ g x`;
+* `𝓟 s` : `Filter.Principal s`, localized in `Filter`.
+
+## References
+
+*  [N. Bourbaki, *General Topology*][bourbaki1966]
+
+Important note: Bourbaki requires that a filter on `X` cannot contain all sets of `X`, which
+we do *not* require. This gives `filter X` better formal properties, in particular a bottom element
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:78]:
```suggestion
we do *not* require. This gives `Filter X` better formal properties, in particular a bottom element
```

**Review by jcommelin — COMMENTED** [review]
Some naming fixes in the module docstring.

File: Mathlib/Order/Filter/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,3090 @@
...
+  simp only [filter_eq_iff, ext_iff, Filter.mem_sets]
+#align filter.ext_iff Filter.ext_iff
+
+@[ext]
+protected theorem ext : (∀ s, s ∈ f ↔ s ∈ g) → f = g :=
+  Filter.ext_iff.2
+#align filter.ext Filter.ext
+
+/-- An extensionality lemma that is useful for filters with good lemmas about `sᶜ ∈ f` (e.g.,
+`filter.comap`, `filter.coprod`, `filter.Coprod`, `filter.cofinite`). -/
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:143]:
```suggestion
`Filter.comap`, `Filter.coprod`, `Filter.Coprod`, `Filter.cofinite`). -/
```
Should this be called `Filter.Coprod`, or rather something like `Filter.coprodᵢ`?

File: Mathlib/Order/Filter/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,3090 @@
...
+      rcases hV, hW with ⟨⟨t, hts, ht, htV⟩, u, hus, hu, huW⟩
+      exact
+        ⟨t ∪ u, union_subset hts hus, ht.union hu,
+          (interₛ_union _ _).subset.trans <| inter_subset_inter htV huW⟩
+  · rcases h with ⟨t, hts, tfin, h⟩
+    exact mem_of_superset ((interₛ_mem tfin).2 fun V hV => GenerateSets.basic <| hts hV) h
+#align filter.mem_generate_iff Filter.mem_generate_iff
+
+/-- `mk_of_closure s hs` constructs a filter on `α` whose elements set is exactly
+`s : set (set α)`, provided one gives the assumption `hs : (generate s).sets = s`. -/
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:380]:
```suggestion
`s : Set (Set α)`, provided one gives the assumption `hs : (generate s).sets = s`. -/
```

File: Mathlib/Order/Filter/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,3090 @@
...
+  { Filter.instCompleteLatticeFilter with
+    le_sup_inf := by
+      intro x y z s
+      simp only [and_assoc, mem_inf_iff, mem_sup, exists_prop, exists_imp, and_imp]
+      rintro hs t₁ ht₁ t₂ ht₂ rfl
+      exact
+        ⟨t₁, x.sets_of_superset hs (inter_subset_left t₁ t₂), ht₁, t₂,
+          x.sets_of_superset hs (inter_subset_right t₁ t₂), ht₂, rfl⟩ }
+
+-- The dual version does not hold! `filter α` is not a `complete_distrib_lattice`. -/
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:876]:
```suggestion
-- The dual version does not hold! `Filter α` is not a `CompleteDistribLattice`. -/
```

**Review by jcommelin — COMMENTED** [review]
Reviewed docstring till L890.

File: Mathlib/Order/Filter/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,3090 @@
...
+      ⟨fun a => if h : a ∈ s then p ⟨a, h⟩ else univ, fun a ha => by simpa [ha] using hp ⟨a, ha⟩, _⟩
+    refine' interᵢ_congr_of_surjective id surjective_id _
+    rintro ⟨a, ha⟩
+    simp [ha]
+  · rintro ⟨p, hpf, rfl⟩
+    exact interᵢ_mem.2 fun a => mem_infᵢ_of_mem a (hpf a a.2)
+#align filter.mem_infi_finset Filter.mem_infᵢ_finset
+
+/-- If `f : ι → filter α` is directed, `ι` is not empty, and `∀ i, f i ≠ ⊥`, then `infᵢ f ≠ ⊥`.
+See also `infᵢ_neBot_of_directed` for a version assuming `nonempty α` instead of `nonempty ι`. -/
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:905]:
```suggestion
/-- If `f : ι → Filter α` is directed, `ι` is not empty, and `∀ i, f i ≠ ⊥`, then `infᵢ f ≠ ⊥`.
See also `infᵢ_neBot_of_directed` for a version assuming `Nonempty α` instead of `Nonempty ι`. -/
```

File: Mathlib/Order/Filter/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,3090 @@
...
+theorem infᵢ_neBot_of_directed' {f : ι → Filter α} [Nonempty ι] (hd : Directed (· ≥ ·) f) :
+    (∀ i, NeBot (f i)) → NeBot (infᵢ f) :=
+  not_imp_not.1 <| by simpa only [not_forall, not_neBot, ← empty_mem_iff_bot,
+    mem_infᵢ_of_directed hd] using id
+#align filter.infi_ne_bot_of_directed' Filter.infᵢ_neBot_of_directed'
+
+/-- If `f : ι → filter α` is directed, `α` is not empty, and `∀ i, f i ≠ ⊥`, then `infᵢ f ≠ ⊥`.
+See also `infᵢ_neBot_of_directed'` for a version assuming `nonempty ι` instead of `nonempty α`. -/
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:913]:
```suggestion
/-- If `f : ι → Filter α` is directed, `α` is not empty, and `∀ i, f i ≠ ⊥`, then `infᵢ f ≠ ⊥`.
See also `infᵢ_neBot_of_directed'` for a version assuming `Nonempty ι` instead of `Nonempty α`. -/
```

File: Mathlib/Order/Filter/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,3090 @@
...
+In this file, we define the type `Filter X` of filters on `X`, and endow it with a complete lattice
+structure. This structure is lifted from the lattice structure on `Set (Set X)` using the Galois
+insertion which maps a filter to its elements in one direction, and an arbitrary set of sets to
+the smallest filter containing it in the other direction.
+We also prove `Filter` is a monadic functor, with a push-forward operation
+`Filter.map` and a pull-back operation `Filter.comap` that form a Galois connections for the
+order on filters.
+
+The examples of filters appearing in the description of the two motivating ideas are:
+* `(Filter.AtTop : filter ℕ)` : made of sets of `ℕ` containing `{n | n ≥ N}` for some `N`
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:47]:
```suggestion
* `(Filter.atTop : Filter ℕ)` : made of sets of `ℕ` containing `{n | n ≥ N}` for some `N`
```

File: Mathlib/Order/Filter/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,3090 @@
...
+
+The general notion of limit of a map with respect to filters on the source and target types
+is `Filter.Tendsto`. It is defined in terms of the order and the push-forward operation.
+The predicate "happening eventually" is `Filter.Eventually`, and "happening often" is
+`Filter.Frequently`, whose definitions are immediate after `Filter` is defined (but they come
+rather late in this file in order to immediately relate them to the lattice structure).
+
+For instance, anticipating on Topology.Basic, the statement: "if a sequence `u` converges to
+some `x` and `u n` belongs to a set `M` for `n` large enough then `x` is in the closure of
+`M`" is formalized as: `Tendsto u at_top (𝓝 x) → (∀ᶠ n in at_top, u n ∈ M) → x ∈ closure M`,
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:62]:
```suggestion
`M`" is formalized as: `Tendsto u atTop (𝓝 x) → (∀ᶠ n in atTop, u n ∈ M) → x ∈ closure M`,
```

File: Mathlib/Order/Filter/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,3090 @@
...
+
+end Lattice
+
+-- @[mono] porting note: `mono` tactic is not ported yet
+theorem join_mono {f₁ f₂ : Filter (Filter α)} (h : f₁ ≤ f₂) : join f₁ ≤ join f₂ := fun _ hs => h hs
+#align filter.join_mono Filter.join_mono
+
+/-! ### Eventually -/
+
+/-- `f.Eventually p` or `∀ᶠ x in f, p x` mean that `{x | p x} ∈ f`. E.g., `∀ᶠ x in at_top, p x`
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:1055]:
```suggestion
/-- `f.Eventually p` or `∀ᶠ x in f, p x` mean that `{x | p x} ∈ f`. E.g., `∀ᶠ x in atTop, p x`
```

File: Mathlib/Order/Filter/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,3090 @@
...
+#align filter.eventually_inf Filter.eventually_inf
+
+theorem eventually_inf_principal {f : Filter α} {p : α → Prop} {s : Set α} :
+    (∀ᶠ x in f ⊓ 𝓟 s, p x) ↔ ∀ᶠ x in f, x ∈ s → p x :=
+  mem_inf_principal
+#align filter.eventually_inf_principal Filter.eventually_inf_principal
+
+/-! ### Frequently -/
+
+/-- `f.frequently p` or `∃ᶠ x in f, p x` mean that `{x | ¬p x} ∉ f`. E.g., `∃ᶠ x in at_top, p x`
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:1242]:
```suggestion
/-- `f.Frequently p` or `∃ᶠ x in f, p x` mean that `{x | ¬p x} ∉ f`. E.g., `∃ᶠ x in atTop, p x`
```

File: Mathlib/Order/Filter/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,3090 @@
...
+
+section Comap
+
+/-- The inverse map of a filter. A set `s` belongs to `filter.comap m f` if either of the following
+equivalent conditions hold.
+
+1. There exists a set `t ∈ f` such that `m ⁻¹' t ⊆ s`. This is used as a definition.
+2. The set `{y | ∀ x, m x = y → x ∈ s}` belongs to `f`, see `filter.mem_comap'`.
+3. The set `(m '' sᶜ)ᶜ` belongs to `f`, see `filter.mem_comap_iff_compl` and
+`filter.compl_mem_comap`. -/
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:1870]:
```suggestion
/-- The inverse map of a filter. A set `s` belongs to `Filter.comap m f` if either of the following
equivalent conditions hold.

1. There exists a set `t ∈ f` such that `m ⁻¹' t ⊆ s`. This is used as a definition.
2. The set `{y | ∀ x, m x = y → x ∈ s}` belongs to `f`, see `Filter.mem_comap'`.
3. The set `(m '' sᶜ)ᶜ` belongs to `f`, see `Filter.mem_comap_iff_compl` and
`Filter.compl_mem_comap`. -/
```

File: Mathlib/Order/Filter/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,3090 @@
...
+#align filter.mem_comap_iff_compl Filter.mem_comap_iff_compl
+
+theorem compl_mem_comap : sᶜ ∈ comap f l ↔ (f '' s)ᶜ ∈ l := by rw [mem_comap_iff_compl, compl_compl]
+#align filter.compl_mem_comap Filter.compl_mem_comap
+
+end Comap
+
+/-- The monadic bind operation on filter is defined the usual way in terms of `map` and `join`.
+
+Unfortunately, this `bind` does not result in the expected applicative. See `filter.seq` for the
```
Comment (jcommelin) [inline Mathlib/Order/Filter/Basic.lean:1908]:
```suggestion
Unfortunately, this `bind` does not result in the expected applicative. See `Filter.seq` for the
```

**Review by jcommelin — COMMENTED** [review]
Finish reviewing comments.

**Review by jcommelin — APPROVED** [review]
LGTM

bors d+

**Comment by urkud** [comment]
bors merge
